### PR TITLE
Adding some theory for `rem` and generalizing and renaming `subset_maskP`

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

- Added helper lemmas about `rem`: `rem_cons` (to control unfolding), `remE`, `count_rem`, `count_mem_rem`, `subseq_rem`, `leq_count_mask`, and `leq_count_subseq`.  (New lemma `drop_index` briges the gap between `cat_take_drop` and `remE`).
- `subset_maskP`, which was not released yet is renamed to `count_maskP` and generalized as an equivalence with `(forall x, count_mem x s1 <= count_mem x s2)`, instead of an implication from `uniq s1` and `{subset s1 <= s2}`, the previous behaviour can be restored with helper lemma `leq_uniq_count`
- Its trivial consequence `count_subseqP` has been added too.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -2253,6 +2283,29 @@ elim: m s => [|[] m ih] [|x s] //=.
...
+  by exists [::]; apply/allP => x _/=; rewrite eqn_leq s1_le.
+have [xs1|xNs1] := boolP (x \in s1).
+  have [y|m s1s2] := IHs (rem x s1); first by rewrite count_mem_rem leq_subLR.
+  by exists (true :: m); rewrite (permPl (perm_to_rem xs1)) perm_cons.
+have [y|m s1s2] := IHs s1; last by exists (false :: m).
+have [<-|xNy] := eqVneq x y; first by rewrite (count_memPn xNs1).
+by have := s1_le y; rewrite (negPf xNy).
+Qed.
+
+Lemma subset_subseqP s1 s2 : (forall x, count_mem x s1 <= count_mem x s2) ->
```
Comment (affeldt-aist) [inline mathcomp/ssreflect/seq.v:2301]: Shouldn't the name rather be `count_subseqP`?

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -2253,6 +2283,29 @@ elim: m s => [|[] m ih] [|x s] //=.
 - by case: ifP => [/mem_mask -> // | _ /andP [] _ /ih].
 Qed.
 
+Lemma subset_maskP s1 s2 : (forall x, count_mem x s1 <= count_mem x s2) ->
```
Comment (affeldt-aist) [inline mathcomp/ssreflect/seq.v:2286]: Shouldn't the name be `count_maskP`?  Because the hypothesis is not equivalent to `{subset s1 <= s2}`.

**Review by affeldt-aist — COMMENTED** [review]
I have the feeling that `subseq_rem` is a bit specific but I do not see how to generalize it.
Note also that the statement of `perm_to_subseq ` (just before `subseq_rem`) can fit on one line.

File: mathcomp/ssreflect/seq.v [hunk 3]
```diff
@@ -2243,8 +2269,12 @@ Notation "[ 'seq' E : R | i : T <- s & C ]" :=
...
-  uniq s -> mask m s = [seq i <- s | i \in mask m s].
+Section MiscMask.
+
+Variable (T : eqType).
+Implicit Types (s : seq T) (m : bitseq).
+
+Lemma mask_filter s m : uniq s -> mask m s = [seq i <- s | i \in mask m s].
 Proof.
 elim: m s => [|[] m ih] [|x s] //=.
 - by move=> _; elim: s.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2280]: I did not touch the proof, but I can

File: mathcomp/ssreflect/seq.v [hunk 4]
```diff
@@ -2138,6 +2151,19 @@ Proof. by move/rem_filter=> -> y; rewrite mem_filter. Qed.
 Lemma mem_rem_uniqF s : uniq s -> x \in rem s = false.
 Proof. by move/mem_rem_uniq->; rewrite inE eqxx. Qed.
 
+Lemma count_rem P s : count P (rem s) = count P s - (x \in s) && P x.
+Proof.
+have [xs|xNs]/= := boolP (x \in s); last by rewrite subn0 rem_id//.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2156]:
```suggestion
have [xs|xNs]/= := boolP (x \in s); last by rewrite subn0 rem_id.
```

File: mathcomp/ssreflect/seq.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2301]: Looks like a better name indeed.

File: mathcomp/ssreflect/seq.v [hunk 5]
```diff
@@ -2287,15 +2340,15 @@ case: eqP => [-> | _] /IHs[s3 perm_s2] {IHs}.
 by exists (rcons s3 y); rewrite -cat_cons -perm_rcons -!cats1 catA perm_cat2r.
 Qed.
 
-Lemma subset_maskP s1 s2 : uniq s1 -> {subset s1 <= s2} ->
-  exists2 m : seq bool, size m = size s2 & perm_eq s1 (mask m s2).
+Lemma subseq_rem s1 s2 x : subseq s1 s2 -> subseq (rem x s1) (rem x s2).
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:2343]:
```suggestion
Lemma subseq_rem x : {homo rem x : s1 s2 / @subseq T s1 s2}.
```

File: mathcomp/ssreflect/seq.v [hunk 6]
```diff
@@ -2287,15 +2340,15 @@ case: eqP => [-> | _] /IHs[s3 perm_s2] {IHs}.
...
-exists m; rewrite // -s1'_eq; apply: uniq_perm => // [|x].
-  by rewrite filter_uniq ?undup_uniq.
-by rewrite mem_filter mem_undup; have [/sub_s1_s2|] := boolP (x \in s1).
+elim: s2 x s1 => [|x2 s2 IHs1] x [|x1 s1]//=; first by rewrite sub0seq.
+have [->|Nx12] := eqVneq x1 x2; first by case: eqP => //= _ /IHs1; rewrite eqxx.
+have [->|Nx1] := eqVneq x x1.
+  rewrite eq_sym (negPf Nx12) => /(IHs1 x1).
+  by rewrite rem_cons eqxx => /subseq_trans->//; apply: subseq_cons.
+move=> /(IHs1 x); rewrite rem_cons eq_sym (negPf Nx1) => /subseq_trans->//.
+by have [->|Nx2] := eqVneq x x2; [apply: rem_subseq|apply: subseq_cons].
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:2351]:
```suggestion
move=> s1 s2; elim: s2 s1 => [|x2 s2 IHs2] [|x1 s1]; rewrite ?sub0seq //=.
have [->|Nx12] := eqVneq x1 x2; first by case: eqP => //= _ /IHs2; rewrite eqxx.
move/IHs2/subseq_trans=> -> //.
have [->|Nx2] := eqVneq x x2; [apply: rem_subseq|apply: subseq_cons].
```

File: mathcomp/ssreflect/seq.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2301]:
```suggestion
Lemma count_subseqP s1 s2 : (forall x, count_mem x s1 <= count_mem x s2) ->
```

File: mathcomp/ssreflect/seq.v (hunk 2 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2286]:
```suggestion
Lemma count_maskP s1 s2 : (forall x, count_mem x s1 <= count_mem x s2) ->
```

File: mathcomp/ssreflect/seq.v [hunk 7]
```diff
@@ -2253,6 +2283,29 @@ elim: m s => [|[] m ih] [|x s] //=.
...
+have [y|m s1s2] := IHs s1; last by exists (false :: m).
+have [<-|xNy] := eqVneq x y; first by rewrite (count_memPn xNs1).
+by have := s1_le y; rewrite (negPf xNy).
+Qed.
+
+Lemma subset_subseqP s1 s2 : (forall x, count_mem x s1 <= count_mem x s2) ->
+  exists2 t, subseq t s2 & perm_eq s1 t.
+Proof.
+by move=> /subset_maskP[m]; exists (mask m s2); rewrite ?mask_subseq.
+Qed.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2305]: I'd rather have a 3 line proof than breaking the conventions of the file (no list is named `u`)

File: mathcomp/ssreflect/seq.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2280]: Or maybe you can, in a separate PR :+1:

File: CHANGELOG_UNRELEASED.md [hunk 8]
```diff
@@ -222,7 +222,9 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
   `commCmx`. The common arguments of these lemmas `R` and `n` are
   maximal implicits.
 
-  - in `seq.v`, added `in_mask`, `cons_subseq`, `undup_subseq`, `subset_maskP`.
+  - in `seq.v`, added `in_mask`, `cons_subseq`, `undup_subseq`,
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:225]:
```suggestion
  - in `seq.v`, added `drop_index`, `in_mask`, `cons_subseq`, `undup_subseq`,
```

File: mathcomp/ssreflect/seq.v [hunk 9]
```diff
@@ -2099,16 +2107,21 @@ Variables (T : eqType) (x : T).
...
+Lemma rem_cons y s : rem (y :: s) = if y == x then s else y :: rem s.
+Proof. by []. Qed.
+
+Lemma remE s : rem s = take (index x s) s ++ drop (index x s).+1 s.
+Proof. by elim: s => //= y s ->; case: eqVneq; rewrite ?drop0. Qed.
+
 Lemma rem_id s : x \notin s -> rem s = s.
 Proof.
-by elim: s => //= y s IHs /norP[neq_yx /IHs->]; rewrite eq_sym (negbTE neq_yx).
+by move=> xNs; rewrite remE memNindex ?drop_oversize ?take_oversize ?cats0.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:2118]:
```suggestion
by move=> xNs; rewrite remE memNindex ?take_size ?drop_oversize ?cats0.
```

File: mathcomp/ssreflect/seq.v [hunk 10]
```diff
@@ -2253,6 +2283,29 @@ elim: m s => [|[] m ih] [|x s] //=.
...
+  by exists (true :: m); rewrite (permPl (perm_to_rem xs1)) perm_cons.
+have [y|m s1s2] := IHs s1; last by exists (false :: m).
+have [<-|xNy] := eqVneq x y; first by rewrite (count_memPn xNs1).
+by have := s1_le y; rewrite (negPf xNy).
+Qed.
+
+Lemma subset_subseqP s1 s2 : (forall x, count_mem x s1 <= count_mem x s2) ->
+  exists2 t, subseq t s2 & perm_eq s1 t.
+Proof.
+by move=> /subset_maskP[m]; exists (mask m s2); rewrite ?mask_subseq.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:2304]:
```suggestion
by move=> /count_maskP[m]; exists (mask m s2); rewrite ?mask_subseq.
```

File: CHANGELOG_UNRELEASED.md [hunk 11]
```diff
@@ -222,7 +222,9 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
   `commCmx`. The common arguments of these lemmas `R` and `n` are
   maximal implicits.
 
-  - in `seq.v`, added `in_mask`, `cons_subseq`, `undup_subseq`, `subset_maskP`.
+  - in `seq.v`, added `drop_index`, `in_mask`, `cons_subseq`, `undup_subseq`,
+    `subset_maskP`, `subset_subseqP`, `count_rem`, `count_mem_rem`,
+    `rem_cons`, `remE`,  `subseq_rem` and `leq_count_uniq`.
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:227]:
```suggestion
    `count_maskP`, `count_subseqP`, `count_rem`, `count_mem_rem`,
    `rem_cons`, `remE`,  `subseq_rem` and `leq_count_uniq`.
```

File: mathcomp/ssreflect/seq.v [hunk 12]
```diff
@@ -2099,16 +2107,21 @@ Variables (T : eqType) (x : T).
...
 Fixpoint rem s := if s is y :: t then (if y == x then t else y :: rem t) else s.
 
+Lemma rem_cons y s : rem (y :: s) = if y == x then s else y :: rem s.
+Proof. by []. Qed.
+
+Lemma remE s : rem s = take (index x s) s ++ drop (index x s).+1 s.
+Proof. by elim: s => //= y s ->; case: eqVneq; rewrite ?drop0. Qed.
+
 Lemma rem_id s : x \notin s -> rem s = s.
 Proof.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2133]: I'm not fond of gluing `=>` with `?`,  so I took your proof, but kept the name of the introduced variable and on 3 lines.

**Comment by CohenCyril** [comment]
@affeldt-aist @pi8027 comments taken into account, you may merge if you like.

**Comment by pi8027** [comment]
Remark: `forall x, count_mem x s1 <= count_mem x s2` can be seen as a non-symmetric version of `perm_eq` (conversely, `perm_eq` is the symmetric closure of it). Defining a boolean relation for this and refactoring the `perm_eq` theory using it can probably be useful, but depending on its applications.

**Comment by CohenCyril** [comment]
> Remark: `forall x, count_mem x s1 <= count_mem x s2` can be seen as a non-symmetric version of `perm_eq` (conversely, `perm_eq` is the symmetric closure of it). Defining a boolean relation for this and refactoring the `perm_eq` theory using it can probably be useful, but depending on its applications.

Good remark, I think it's beyond the scope of this PR. Maybe you can open an issue to suggest this refactoring, but I'm not sure it's useful to anyone as of now...

**Review by pi8027 — COMMENTED** [review]
LGTM except for the following suggestion.

File: mathcomp/ssreflect/seq.v [hunk 13]
```diff
@@ -2269,6 +2299,29 @@ elim: m s => [|[] m ih] [|x s] //=.
...
+move=> s1_le; suff [m mP]: exists m, perm_eq s1 (mask m s2).
+  by have [m' sm' eqm] := resize_mask m s2; exists m'; rewrite -?eqm.
+elim: s2 => [|x s2 IHs]//= in s1 s1_le *.
+  by exists [::]; apply/allP => x _/=; rewrite eqn_leq s1_le.
+have [xs1|xNs1] := boolP (x \in s1).
+  have [y|m s1s2] := IHs (rem x s1); first by rewrite count_mem_rem leq_subLR.
+  by exists (true :: m); rewrite (permPl (perm_to_rem xs1)) perm_cons.
+have [y|m s1s2] := IHs s1; last by exists (false :: m).
+have [<-|xNy] := eqVneq x y; first by rewrite (count_memPn xNs1).
+by have := s1_le y; rewrite (negPf xNy).
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:2314]:
```suggestion
have [y|m s1s2] := IHs (rem x s1); first by rewrite count_mem_rem leq_subLR.
exists ((x \in s1) :: m) => /=; case: (boolP (x \in s1)).
  by move/perm_to_rem/permPl->; rewrite perm_cons.
by rewrite -(permPr s1s2); move/rem_id->.
```

**Review by pi8027 — APPROVED** [review]

**Comment by CohenCyril** [comment]
I think I'd also turn `count_maskP` and `count_subsetP` into equivalences.

**Comment by CohenCyril** [comment]
> I think I'd also turn `count_maskP` and `count_subsetP` into equivalences.

@pi8027 which I did, you may rereview.

**Review by affeldt-aist — APPROVED** [review]

File: mathcomp/ssreflect/seq.v [hunk 14]
```diff
@@ -2269,6 +2299,41 @@ elim: m s => [|[] m ih] [|x s] //=.
 - by case: ifP => [/mem_mask -> // | _ /andP [] _ /ih].
 Qed.
 
+Lemma leq_count_mask P m s : count P (mask m s) <= count P s.
+Proof.
+by elim: s m => [|x s IHs] [|[] m]//=;
+   rewrite ?leq_add2l (leq_trans (IHs _)) ?leq_addl.
+Qed.
+
+Lemma leq_count_subseq P s1 s2 : subseq s1 s2 -> count P s1 <= count P s2.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:2308]: `T` is not required to be an `eqType` here.

File: mathcomp/ssreflect/seq.v [hunk 15]
```diff
@@ -2269,6 +2299,41 @@ elim: m s => [|[] m ih] [|x s] //=.
...
+split=> [s1_le|[m _ /allP/(_ _ _)/eqP s1ms2 x]]; last first.
+  have [xs1|/count_memPn->//] := boolP (x \in s1).
+  by rewrite s1ms2 ?mem_cat ?xs1// leq_count_mask.
+suff [m mP]: exists m, perm_eq s1 (mask m s2).
+  by have [m' sm' eqm] := resize_mask m s2; exists m'; rewrite -?eqm.
+elim: s2 => [|x s2 IHs]//= in s1 s1_le *.
+  by exists [::]; apply/allP => x _/=; rewrite eqn_leq s1_le.
+have [y|m s1s2] := IHs (rem x s1); first by rewrite count_mem_rem leq_subLR.
+exists ((x \in s1) :: m); have [|/rem_id<-//] := boolP (x \in s1).
+by move/perm_to_rem/permPl->; rewrite perm_cons.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:2324]:
```suggestion
split=> [s1_le|[m _ /permP s1ms2 x]]; last by rewrite s1ms2 leq_count_mask.
suff [m mP]: exists m, perm_eq s1 (mask m s2).
  by have [m' sm' eqm] := resize_mask m s2; exists m'; rewrite -?eqm.
elim: s2 => [|x s2 IHs]//= in s1 s1_le *.
  by exists [::]; apply/allP => x _/=; rewrite eqn_leq s1_le.
have [y|m s1s2] := IHs (rem x s1); first by rewrite count_mem_rem leq_subLR.
exists ((x \in s1) :: m); have [|/rem_id<-//] := boolP (x \in s1).
by move/perm_to_rem/permPl->; rewrite perm_cons.
```

File: CHANGELOG_UNRELEASED.md [hunk 16]
```diff
@@ -228,7 +228,10 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
   `commCmx`. The common arguments of these lemmas `R` and `n` are
   maximal implicits.
 
-  - in `seq.v`, added `in_mask`, `cons_subseq`, `undup_subseq`, `subset_maskP`.
+  - in `seq.v`, added `drop_index`, `in_mask`, `cons_subseq`,
+    `undup_subseq`, `leq_count_mask`, `leq_count_subseq`,
+    `count_maskP`, `count_subseqP`, `count_rem`, `count_mem_rem`,
+    `rem_cons`, `remE`,  `subseq_rem` and `leq_count_uniq`.
```
Comment (pi8027) [inline CHANGELOG_UNRELEASED.md:234]:
```suggestion
    `rem_cons`, `remE`,  `subseq_rem` and `leq_uniq_count`.
```

File: mathcomp/ssreflect/seq.v (hunk 14 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:2307]: Yes, it is, but not for `leq_count_mask` indeed!

**Comment by CohenCyril** [comment]
Every remark has been attended!

File: mathcomp/ssreflect/seq.v [hunk 17]
```diff
@@ -1271,6 +1271,13 @@ elim: s => //= y s IHs /andP[/negbTE s'y /IHs-> {IHs}].
 by rewrite in_cons; case: (eqVneq y x) => // <-; rewrite s'y.
 Qed.
 
+Lemma leq_uniq_count s1 s2 : uniq s1 -> {subset s1 <= s2} ->
+  (forall x, count_mem x s1 <= count_mem x s2).
+Proof.
+move=> s1_uniq s1_s2 x; rewrite count_uniq_mem//.
+by case: (boolP (_ \in _)) => // /s1_s2/count_memPn/eqP; rewrite -lt0n.
+Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:1279]: The converse of this lemma also holds, and both directions hold for each `x : T`. So it should probably be something like this:
```coq
Lemma leq_uniq_count x s1 s2 : uniq s1 ->
  reflect (x \in s1 -> x \in s2) (count_mem x s1 <= count_mem x s2).
Proof.
move/count_uniq_mem->; case: (boolP (_ \in _)) => //= _; last by constructor.
by rewrite -has_pred1 has_count; apply: (iffP idP) => //; apply.
Qed.
```

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:1279]: for composition to be possible we should have your lemma and mine, untouched.

blindfix!

```suggestion
Lemma leq_uniq_countP x s1 s2 : uniq s1 ->
  reflect (x \in s1 -> x \in s2) (count_mem x s1 <= count_mem x s2).
Proof.
move/count_uniq_mem->; case: (boolP (_ \in _)) => //= _; last by constructor.
by rewrite -has_pred1 has_count; apply: (iffP idP) => //; apply.
Qed.

Lemma leq_uniq_count s1 s2 : uniq s1 -> {subset s1 <= s2} ->
  (forall x, count_mem x s1 <= count_mem x s2).
Proof. by move=> s1_uniq s1_s2 x; apply/leq_uniq_countP/s1_s2. Qed.
```

File: CHANGELOG_UNRELEASED.md [hunk 18]
```diff
@@ -228,7 +228,10 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
   `commCmx`. The common arguments of these lemmas `R` and `n` are
   maximal implicits.
 
-  - in `seq.v`, added `in_mask`, `cons_subseq`, `undup_subseq`, `subset_maskP`.
+  - in `seq.v`, added `drop_index`, `in_mask`, `cons_subseq`,
+    `undup_subseq`, `leq_count_mask`, `leq_count_subseq`,
+    `count_maskP`, `count_subseqP`, `count_rem`, `count_mem_rem`,
+    `rem_cons`, `remE`, `subseq_rem`, and `leq_uniq_count`.
```
Comment (pi8027) [inline CHANGELOG_UNRELEASED.md:234]:
```suggestion
    `rem_cons`, `remE`, `subseq_rem`, `leq_uniq_countP`, and
    `leq_uniq_count`.
```

**Review by pi8027 — APPROVED** [review]
LGTM, except the above point. It would also be better to squash the last two commits and the above suggestion.
